US08247556B2
Preparation XIX—(S)-(3,3-Dimethyl-6-nitro-2,3-dihydro-indol-1-yl)-(tetrahydro-furan-2-yl)-methanone
A mixture of 3,3-dimethyl-6-nitroindoline (385 mg, 2 mmol), (S)-tetrahydrofuran-2-carboxylic acid (250 mg, 2.2 mmol), HOBt (266 mg, 2 mmol), EDAC (700 mg, 3.5 mmol), and DIEA (2 mL) in DCM (50 ml) was stirred at RT for overnight. The reaction mixture was washed in turn with aqueous NaHCO3 (sat., 50 mL), aqueous HCl (0.5N, 50 mL), H2O (50 mL), and brine (50 mL). The DCM layer was concentrated in vacuum to give the desired compound. MS: (ES+) 291(M+H). Calc'd. for C15H18N2O4—290.31.

reactant | 3,3-dimethyl-6-nitroindoline | 2 mmol, 385 mg | CC1(CNC2=CC(=CC=C12)[N+](=O)[O-])C | C10H12N2O2
reactant | (S)-tetrahydrofuran-2-carboxylic acid | 2.2 mmol, 250 mg | O1[C@@H](CCC1)C(=O)O | C5H8O3
reactant | HOBt | 2 mmol, 266 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDAC | 3.5 mmol, 700 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | DIEA | 2 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DCM | 50 ml | C(Cl)Cl | CH2Cl2
product | (S)-(3,3-Dimethyl-6-nitro-2,3-dihydro-indol-1-yl)-(tetrahydro-furan-2-yl)-methanone | CC1(CN(C2=CC(=CC=C12)[N+](=O)[O-])C(=O)[C@H]1OCCC1)C | C15H18N2O4
